US07514507B2
In the same manner as in Synthesis Example 3, except that 1.555 g (manufactured by DAINIPPON INK & CHEMICALS Co., Ltd., “EXA7335”, 3.2 mmol) of 2,7-diglycidyloxy-1,3,4,5,6,8-hexamethyl-9-phenylxanthene, 0.238 g (0.8 mmol) of 4,4′-diglycidyloxybiphenyl and 0.67 g (3.6 mmol) of 4,4′-dihydroxybiphenyl, were replaced by 1.944 g (manufactured by DAINIPPON INK & CHEMICALS Co., Ltd., “EXA7335”, 4.0 mmol) of 2,7-diglycidyloxy-1,3,4,5,6,8-hexamethyl-9-phenylxanthene and 0.821 g (3.6 mmol) of bisphenol A, a xanthene-bisphenol A copolymer type linear epoxy resin was obtained. The amount of the resulting xanthene-bisphenol A copolymer type linear epoxy resin was 2.69 g and the yield was 97%.

reactant | 2,7-diglycidyloxy-1,3,4,5,6,8-hexamethyl-9-phenylxanthene | 3.2 mmol, 1.555 g | C(C1CO1)OC1=C(C=2C(C3=C(C(=C(C(=C3OC2C(=C1C)C)C)C)OCC1CO1)C)C1=CC=CC=C1)C | C31H34O5
reactant | 4,4′-diglycidyloxybiphenyl | 0.8 mmol, 0.238 g | C(C1CO1)OC1=CC=C(C=C1)C1=CC=C(C=C1)OCC1CO1 | C18H18O4
reactant | 4,4′-dihydroxybiphenyl | 3.6 mmol, 0.67 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | 2,7-diglycidyloxy-1,3,4,5,6,8-hexamethyl-9-phenylxanthene | 4.0 mmol, 1.944 g | C(C1CO1)OC1=C(C=2C(C3=C(C(=C(C(=C3OC2C(=C1C)C)C)C)OCC1CO1)C)C1=CC=CC=C1)C | C31H34O5
reactant | bisphenol A | 3.6 mmol, 0.821 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
product | xanthene bisphenol A | yield was 97% | C1=CC=CC=2OC3=CC=CC=C3CC12.OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | InChI=1S/C15H16O2.C13H10O/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;1-3-7-12-10(5-1)9-11-6-2-4-8-13(11)14-12/h3-10,16-17H,1-2H3;1-8H,9H2
